US08466289B2
Synthesis of the Title Compound; 1-(3-Hydroxy-propyl)-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (12A)
1-(3-Benzyloxy-propyl)cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (0.23 g, 0.352 mmol) in DCM (10 mL) was reacted with 1M BCl3 (0.12 g, 1.056 mmol) at 0° C. The resulting mixture was stirred at 0° C. for 3 hours. Purification by column chromatography on silica gel (4% MeOH in CHCl3) afforded 70 mg of the product (36% yield).

reactant | 1-(3-Benzyloxy-propyl)cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 0.352 mmol, 0.23 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2(CC2)CCCOCC2=CC=CC=C2 | C27H29FIN3O5S
reactant | BCl3 | 1.056 mmol, 1M, 0.12 g | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Hydroxy-propyl)-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 70 mg, 36% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2(CC2)CCCO | C20H23FIN3O5S
